US07598423B2
Synthesis of (S)-3-[(4-Iodomethyl-phenyl)-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile
Add sequentially a solution of (S)-3-[(4-hydroxymethyl-phenyl)-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile (2.0 g, 6.18 mmol) dichloromethane (20 ml) and a solution of iodine (1.72 g, 6.80 mmol) in dichloromethane (30 ml) to a cooled (0° C.) solution of triphenylphosphine (1.78 g, 6.80 mmol) and imidazole (635 mg, 9.33 mmol) in dichloromethane (20 ml). Allow to warm to room temperature, then stir for 1.5 hours. Pour the mixture into a cold (0° C.) solution of sodium thiosulfate (3.63 g, 23 mmol) in an ice/water mixture (250 g) and stir for 30 minutes. Extract the aqueous layer with dichloromethane (30 ml). Combine the organic extracts and wash with water, dry with sodium sulfate, filter and concentrate. Purify the crude product via silica chromatography eluting with 15:85 ethyl acetate:hexanes to give the title compound (2.19 g, 82%). MS (m/z). Parent ion not observed.

reactant | (S)-3-[(4-hydroxymethyl-phenyl)-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile | 6.18 mmol, 20 ml, 2.0 g | OCC1=CC=C(C=C1)[C@@H](C=1C=C(C#N)C=CC1)OC1OCCCC1 | C20H21NO3
reactant | iodine | 6.80 mmol, 1.72 g | II | I2
reactant | triphenylphosphine | 6.80 mmol, 1.78 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 9.33 mmol, 635 mg | N1C=NC=C1 | C3H4N2
reactant | sodium thiosulfate | 23 mmol, 3.63 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (S)-3-[(4-Iodomethyl-phenyl)-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile | 2.19 g, 82% | ICC1=CC=C(C=C1)[C@@H](C=1C=C(C#N)C=CC1)OC1OCCCC1 | C20H20INO2
